US05994353
N-Ethyl-5-bromo-2-(cyclopropylmethoxy)benzylamine
To 5-bromosalicylaldehyde (15.0 g, 74 mmol) in dimethylformamide was added anhydrous potassium carbonate (36.8 g, 266 mmol) and bromomethylcyclopropane (9 ml, 93 mmol) and the solution stirred at 50° C. for 60 hours. Propylamine (26.5 g, 450 mmol) was then added and the solution left to stir at ambient temperatures for 2 hours, afterwhich diethyl ether (50 ml) and sodium borohydride (2.6 g, 68 mmol) were added and the solution left for another hour. 6 Normal hydrochloric acid (150 ml) was then added dropwise and the solution left to stir for 16 hours. Impurities were extracted with diethyl ether (200 ml×2), the solution basified with caustic liquor and the product then extracted into diethyl ether (250 ml). The organic layer was then dried over anhydrous magnesium sulphate, filtered and the solvent removed in vacuo to give the title compound (4.8 g, 22%).

reactant | 5-bromosalicylaldehyde | 74 mmol, 15.0 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 266 mmol, 36.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethylcyclopropane | 93 mmol, 9 ml | BrCC1CC1 | C4H7Br
reactant | Propylamine | 450 mmol, 26.5 g | C(CC)N | C3H9N
reactant | sodium borohydride | 68 mmol, 2.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | N-Ethyl-5-bromo-2-(cyclopropylmethoxy)benzylamine | 4.8 g, 22% | C(C)NCC1=C(C=CC(=C1)Br)OCC1CC1 | C13H18BrNO
